datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20]([C:21]([H:24])([H:25])[H:26])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])([H:13])[C:20]([C:21]([H:24])([H:25])[H:26])([H:22])[H:23])[H:12])([H:10])[H:11],21.5058
[C:0]([C:1](=[N:2][H:7])[H:6])([H:3])([H:4])[H:5].[O:8][H:9]>>[C:0]([C:1]=[N:2][H:7])([H:3])([H:4])[H:5].[H:6][O:8][H:9],-4.184
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[O:12]([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[O:12][H:14])[H:5].[H:13],209.73
[C:0]([C:1]([C:2](=[S:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])[C:13](=[S:14])[H:21])([H:15])([H:16])[H:17]>>[C:0]([C:1]([C:2](=[S:3])[H:9])[H:8])([H:4])([H:5])[H:6].[H:7][C:11]([C:10]([H:15])([H:16])[H:17])([C:12]([H:18])([H:19])[H:20])[C:13](=[S:14])[H:21],43.0952
[C:0]([C:1](=[C:2]([H:8])[H:9])[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([H:10])[H:11])([H:6])[H:7]>>[C:0]([C:1](=[C:2]([H:8])[H:9])[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[H:11])([H:6])([H:7])[H:10],180.3304
[C:1]([C:2]([C:3]([C:4]1([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[c:13]2[c:15]([H:16])[c:17]([H:18])[c:19]([H:20])[c:21]([H:22])[c:23]21)([H:25])[H:26])([H:27])[H:28])([H:29])([H:30])[H:31].[H:32]>>[C:1]([C:2]([C:3]([C:4]1([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]2[C:15]([H:16])=[C:17]([H:18])[C:19]([H:20])=[C:21]([H:22])[C:23]12[H:32])([H:25])[H:26])([H:27])[H:28])([H:29])([H:30])[H:31],22.2904
[C:0]([C:1]([S:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[C:9]([c:10]1[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]1[H:22])([H:16])[H:17]>>[C:0]([C:1]([S:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][C:9]([c:10]1[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]1[H:22])([H:16])[H:17],46.024
[C:1](#[C:2][C:3]([C:4]([c:5]1[c:7][c:8]([H:9])[c:10]([H:11])[c:12]([H:13])[c:14]1[H:16])([H:17])[H:18])([H:19])[H:20])[H:21]>>[C:1]1=[C:4]([H:18])[c:5]2[c:7]([H:21])[c:8]([H:9])[c:10]([H:11])[c:12]([H:13])[c:14]2[C:3]([H:19])([H:20])[C:2]1([H:16])[H:17],27.191816
[C:0]([C:1](=[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[C:15]([O:16][O:17])([H:18])([H:19])[H:20]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])[H:11])[H:9])[H:8])([H:5])([H:6])[H:7].[H:10][O:17][O:16][C:15]([H:18])([H:19])[H:20],44.05752
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4])[H:8])([H:5])([H:6])[H:7].[O:12][O:13][H:14]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4][H:14])[H:8])([H:5])([H:6])[H:7].[O:12][O:13],-13.7026
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3](=[S:4])[H:11])([H:5])([H:6])[H:7].[C:12]([c:13]1[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]1[H:26])([H:19])([H:20])[H:21]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3](=[S:4])[H:11])[H:19])([H:5])([H:6])[H:7].[C:12]([c:13]1[c:14]([H:22])[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]1[H:26])([H:20])[H:21],82.0064
[C:0]([C:1](=[C:2]([C:3](=[O:4])[H:10])[H:9])[H:8])([H:5])([H:6])[H:7].[O:11][O:12][H:13]>>[C:0]([C:1](=[C:2]([C:3]=[O:4])[H:9])[H:8])([H:5])([H:6])[H:7].[H:10][O:11][O:12][H:13],49.87328
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15](=[C:16]([C:17]([H:23])([H:24])[H:25])[C:18]([H:26])([H:27])[H:28])[H:22])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[C:16]([C:15]([C:14]([H:19])([H:20])[H:21])[H:22])([C:17]([H:23])([H:24])[H:25])[C:18]([H:26])([H:27])[H:28])[H:7])([H:5])[H:6],53.5552
[C:0](=[N:1][N:2]([H:5])[H:6])([H:3])[H:4].[O:7][H:8]>>[C:0](=[N:1][N:2][H:6])([H:3])[H:4].[H:5][O:7][H:8],-0.29288
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14](=[C:15]([c:16]1[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]1[H:31])[H:26])[H:25])[H:24])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:15]([C:14]([C:13](=[C:12]([H:22])[H:23])[H:24])[H:25])([c:16]1[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]1[H:31])[H:26])[H:5],33.5138
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5](=[C:6]([C:7]#[C:8][H:17])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])[C:6]1([C:7]#[C:8][H:17])[H:16])[H:9],86.023
